US05616586
9-Bromo-5-(1-methoxycarbonylethyl)-6,7-dihydro-1H, 5H-pyrido[1,2,3-de]quinoxaline-2,3-dione (more polar)
The title compound was prepared by the route outlined in Example 22-6 to 7 starting with 6-bromo-N-ethoxalyl-2-(1-methoxycarbonylethyl)tetrahydroquinoline (more polar). In nitration step of Example 22-6, conditions of nitronium tetrafluoroborate in dichloromethane at room temperature were employed instead of those of refluxing ammonium nitrate-trifluoroacetic anhydride in chloroform: mp 256°~257° C.; 1H NMR (270 MHz, DMSO-d6) δ12.12 (s, 1H), 7.19 (s, 1H), 7.16 (s, 1H), 5.11 (bd, 1H, J=9 Hz), 3.58 (s, 3H), 2.89 (ddd, 1H, J=17.1, 13.5, 4.5 Hz), 2.72~2.87 (m, 2H), 2.03 (dm, 1H, J=13.5 Hz), 1.76~1.94 (m, 1H), 0.97 (d, 3H, J=7 Hz).

reactant | 6-bromo-N-ethoxalyl-2-(1-methoxycarbonylethyl)tetrahydroquinoline | BrC=1CC2CCC(N(C2=CC1)C(=O)C(=O)OCC)C(C)C(=O)OC | C17H22BrNO5
reactant | nitronium tetrafluoroborate | F[B-](F)(F)F.O=[N+]=O
reactant | ammonium nitrate trifluoroacetic anhydride | [N+](=O)([O-])[O-].[NH4+].FC(C(=O)OC(C(F)(F)F)=O)(F)F
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 9-Bromo-5-(1-methoxycarbonylethyl)-6,7-dihydro-1H, 5H-pyrido[1,2,3-de]quinoxaline-2,3-dione | BrC=1C=C2C=3N(C(C(NC3C1)=O)=O)C(CC2)C(C)C(=O)OC | C15H15BrN2O4
